US06579328B2
1-(2,4-Dibromophenoxy)-2,2,6,6-tetramethylpiperidine
The procedure of Example 1 is repeated using 1.95 g (12.5 mmol) of 1-oxyl-2,2,6,6-tetramethylpiperidine, 3.92 g (38 mmol) of tert-butyl nitrite, 12.5 mg (0.125 mmol) of copper(II) fluoride, 120 mL of pyridine and 6.30 g (25 mmol) of 2,4-dibromoaniline at 70° C. The crude product obtained is purified by vacuum flash chromatography (heptane) to give 3.34 g of the title compound as a light yellow oil in 68.5% yield. The structure is confirmed by 1Hnmr analysis.

reactant | 1-oxyl-2,2,6,6-tetramethylpiperidine | 12.5 mmol, 1.95 g | ON1C(CCCC1(C)C)(C)C | C9H19NO
reactant | tert-butyl nitrite | 38 mmol, 3.92 g | N(=O)OC(C)(C)C | C4H9NO2
reactant | 2,4-dibromoaniline | 25 mmol, 6.30 g | BrC1=C(N)C=CC(=C1)Br | C6H5Br2N
catalyst | copper(II) fluoride | 0.125 mmol, 12.5 mg | [Cu](F)F
solvent | pyridine | 120 mL | N1=CC=CC=C1 | C5H5N
product | 1-(2,4-Dibromophenoxy)-2,2,6,6-tetramethylpiperidine | 3.34 g, 68.5% yield | BrC1=C(ON2C(CCCC2(C)C)(C)C)C=CC(=C1)Br | C15H21Br2NO
